US09403798B2
1-(4-Chlorobenzyl)-4-[4-(5-nitropyridin-2-yl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one
An N,N-dimethylformamide suspension (1 mL) of 1-(4-chlorobenzyl)-4-(piperazin-1-yl)-1,3,5-triazin-2(1H)-one (31 mg, 0.10 mmol) synthesized in Reference Synthesis Example 9, 2-chloro-5-nitropyridine (16 mg, 0.10 mmol) and potassium carbonate (18 mg, 0.20 mmol) was stirred at 100° C. for 1 hour. After the completion of the reaction, water was added to the reaction solution and extraction with ethyl acetate from the resultant reaction solution was performed three times. The organic layer was washed with brine, was dried over anhydrous sodium sulfate, and was concentrated under reduced pressure. The resultant residue was purified by preparative silica gel thin-layer chromatography to obtain the title compound (2.1 mg, yield: 4.9%).

reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | 1-(4-chlorobenzyl)-4-(piperazin-1-yl)-1,3,5-triazin-2(1H)-one | 0.10 mmol, 31 mg | ClC1=CC=C(CN2C(N=C(N=C2)N2CCNCC2)=O)C=C1 | C14H16ClN5O
reactant | 2-chloro-5-nitropyridine | 0.10 mmol, 16 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 0.20 mmol, 18 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(4-Chlorobenzyl)-4-[4-(5-nitropyridin-2-yl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 2.1 mg, yield: 4.9% | ClC1=CC=C(CN2C(N=C(N=C2)N2CCN(CC2)C2=NC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C19H18ClN7O3
